US03971797
Step C: Preparation of 2-methyl-3-hydroxy-4-hydroxymethyl-5-(1-mercaptoethyl)pyridine hydrochloride
A mixture of 2.0 g. of the mercaptoethyl compound from Step B, 6.0 ml. of 2.5 N hydrochloric acid and 10 ml. of water was heated at 50°C. for 45 minutes. The mixture was made alkaline under solid sodium bicarbonate and concentrated to dryness. The residue was extracted with 50 ml. of hot isopropanol. The extract was cooled to 0°C., saturated with dry hydrogen chloride and concentrated to dryness. The solid residue was isolated by trituration with ether and filtration and dried to give 1.26 g. of 2-methyl-3-hydroxy-4-hydroxymethyl-3-(1-mercaptoethyl)pyridine hydrochloride. After recrystallization from isopropanol-ether, it had m.p. > 200°C. (dec.).

reactant | hydrochloric acid | 2.5 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-methyl-3-hydroxy-4-hydroxymethyl-3-(1-mercaptoethyl)pyridine hydrochloride | Cl.CC1N=CC=C(C1(C(C)S)O)CO
reactant | water | O | H2O
product | 2-methyl-3-hydroxy-4-hydroxymethyl-5-(1-mercaptoethyl)pyridine hydrochloride | Cl.CC1=NC=C(C(=C1O)CO)C(C)S | InChI=1S/C9H13NO2S.ClH/c1-5-9(12)8(4-11)7(3-10-5)6(2)13;/h3,6,11-13H,4H2,1-2H3;1H
